US06143747
A 100 mL round bottom flask equipped with magnetic stir bar and N2 inlet was charged with 1.11 g of methyl 3-[N-(diphenylmethyl)aminosulfonyl]-2(R)-methylpropionate, 447 mg K2CO3, 347 mL benzyl bromide in 20 mL DMF. The reaction was stirred overnight, concentrated in vacuo and partioned between ethyl acetate and water. The organic phase was washed with brine, dried and concentrated in vacuo to 1.2 g of a clear oil. Flash chromatography on silica gel (30% ethyl acetate/hexanes) afforded 730 mg of methyl 3-[N-(benzyl)-N-(diphenylmethyl)aminosulfonyl]-2(R)-methylpropionate. HRMS (M+Li): calcd. 444.1821, obs 444.1865.

reactant | methyl 3-[N-(diphenylmethyl)aminosulfonyl]-2(R)-methylpropionate | 1.11 g | C1(=CC=CC=C1)C(NS(=O)(=O)C[C@@H](C(=O)OC)C)C1=CC=CC=C1 | C18H21NO4S
reactant | K2CO3 | 447 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 347 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | methyl 3-[N-(benzyl)-N-(diphenylmethyl)aminosulfonyl]-2(R)-methylpropionate | 730 mg | C(C1=CC=CC=C1)N(S(=O)(=O)C[C@@H](C(=O)OC)C)C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H27NO4S
